US07687490B2
Phthalidyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate (diastereomer mixture)
The title compound (122 mg) was prepared from 162 mg of sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate and 128 mg of 3-bromophthalide in the same manner as in Example 81, except that only DMA was used as the solvent and the reaction was carried out at room temperature.

reactant | sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 162 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+]
reactant | 3-bromophthalide | 128 mg | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | Phthalidyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 122 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OC2OC(=O)C3=CC=CC=C23)C1=O | C24H22N2O7S2
